US05658922
7β,20-dimethyl-20-hydroxy-5α-4-azapregn-1-en-3-one
To a solution of 20 mg (0.06 mmol) 7β-methyl-5α-4-azapregn-1-ene-3,20-dione in 4 ml dry tetrahydrofuran at -40° C. under N2 was added 10 eq methylmagnesium bromide (0.6 mmol) in ether. The reaction was stirred and allowed to warm to RT over 18 hours. Aqueous ammonium chloride (5 ml) was added and the solvents were evaporated. The residue was partitioned between methylene chloride and water. The organic layer was washed with brine, dried over magnesium sulfate, and evaporated. The product was purified via HPLC on a 19×300 mm 8 micron silica column using 5% isopropanol/hexane at 20 ml/min to yield 16 mg (0.046 mmol, 77% yield) of the title compound.

reactant | 7β-methyl-5α-4-azapregn-1-ene-3,20-dione | 0.06 mmol, 20 mg | C[C@@H]1[C@H]2[C@@H]3CC[C@H](C(C)=O)[C@]3(CC[C@@H]2[C@]2(C=CC(N[C@@H]2C1)=O)C)C | C21H31NO2
reactant | methylmagnesium bromide | 0.6 mmol, 10 eq | C[Mg]Br
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 7β,20-dimethyl-20-hydroxy-5α-4-azapregn-1-en-3-one | 0.046 mmol, 16 mg, 77% yield | C[C@@H]1[C@H]2[C@@H]3CC[C@H](C(C)(O)C)[C@]3(CC[C@@H]2[C@]2(C=CC(N[C@@H]2C1)=O)C)C | C22H35NO2
